US09403818B2
Preparation of ethyl 8-(4-chloro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
A mixture of ethyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (120 mg, 0.400 mmol), 4-chloro-phenyl boronic acid (75 mg, 0.48 mmol), (Ph3P)2PdCl2 (28 mg, 0.040 mmol), and Na2CO3 (190 mg in 0.8 mL of water, 1.80 mmol) in THF (5 mL) was degassed 3 times under N2 and heated to 80° C. overnight. The reaction mixture was diluted with ethyl acetate (50 mL), and washed with water (2×20 mL). The organic phase was separated, dried, and concentrated. The residue was purified by flash silica column chromatography (hexane:ethyl acetate, 2:3) to afford the title compound as a yellow solid (95 mg, 62%).

reactant | ethyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.400 mmol, 120 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O | C16H16ClNO3
reactant | 4-chloro-phenyl boronic acid | 0.48 mmol, 75 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 1.80 mmol, 0.8 mL, 190 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | (Ph3P)2PdCl2 | 0.040 mmol, 28 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | ethyl 8-(4-chloro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 95 mg, 62% | ClC1=CC=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OCC)=O | C22H20ClNO3
